US08877780B2
To a stirred mixture of 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride (0.97 g, 3.00 mmol) and 3-methoxyphenylisocyanate (0.45 g, 3.30 mmol) in THF (20 mL), was added DIPEA (1.05 mL, 6.00 mmol) at room temperature under nitrogen. The mixture was heated to 40° C. for 18 h then cooled to rt. The solvent was removed in vacuo and the residue was dissolved in EtOAc (100 mL). The organic layer was washed with dil. aq. HCl (2×150 mL), water (100 mL), dried (MgSO4) and then concentrated. The residue was triturated in Et2O (50 mL) for 3 h at rt, then refluxed in acetone (50 mL) for 1 h. The product was isolated by filtration and dried in vacuo to give 1-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(3-methoxy-phenyl)-urea as a white solid (0.08 g, 6% yield): HPLC: Waters Symmetry C18, 5 μm, 3.9×150 mm, 1 mL/min, 240 nm, 30/70 CH3CN/0.1% H3PO4, 8.01 min (99.44%); mp: 323-325° C.; 1H NMR (DMSO-d6) δ 2.03-2.09 (m, 1H, CHH), 2.49-2.63 (m, 2H, CHH, CHH), 2.85-2.91 (m, 1H, CHH), 3.70 (s, 3H, CH3), 4.47 (d, J=6.0 Hz, 2H, CH2), 5.15 (dd, J=5.4, 13.5 Hz, 1H, CH), 6.47-6.50 (m, 1H, Ar or NH), 6.82-6.91 (m, 2H, Ar or NH), 7.09-7.15 (m, 2H, Ar or NH), 7.78-7.91 (m, 3H, Ar or NH), 8.74 (s, 1H, NH), 11.12 (s, 1H, NH); 13C NMR (DMSO-d6) δ 21.98, 30.90, 42.57, 48.96, 54.81, 103.52, 106.72, 110.14, 121.63, 123.47, 129.36, 129.65, 131.57, 133.17, 141.49, 143.07, 148.75, 155.16, 159.60, 167.02, 167.18, 169.80, 172.72; LCMS: MH=437; Anal Calcd for C22H20N4O6: C, 58.38; H, 4.85; N, 12.38. Found: C, 58.36; H, 4.45; N, 11.98.

reactant | 5-aminomethyl-2-(2,6-dioxo-piperidin-3-yl)-isoindole-1,3-dione hydrochloride | 3.00 mmol, 0.97 g | Cl.NCC=1C=C2C(N(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)=O
reactant | 3-methoxyphenylisocyanate | 3.30 mmol, 0.45 g | COC=1C=C(C=CC1)N=C=O | C8H7NO2
reactant | DIPEA | 6.00 mmol, 1.05 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | 1-[2-(2,6-dioxo-piperidin-3-yl)-1,3-dioxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-3-(3-methoxy-phenyl)-urea | 0.08 g, 6% yield | O=C1NC(CCC1N1C(C2=CC=C(C=C2C1=O)CNC(=O)NC1=CC(=CC=C1)OC)=O)=O | C22H20N4O6
